US04447422
(b) 2-Allylamino-4-hydroxypyrimidine-5-carboxylic acid
2-Allylamino-5-ethoxycarbonyl-4-hydroxypyrimidine (585 mg, 2.5 mmol) was hydrolysed in boiling water with NaOH (300 mg, 7.5 mmol) for 2 hours. Cooling and acidification to pH 2 yielded the title acid (321 mg, 66%).

reactant | 2-Allylamino-5-ethoxycarbonyl-4-hydroxypyrimidine | 2.5 mmol, 585 mg | C(C=C)NC1=NC=C(C(=N1)O)C(=O)OCC | C10H13N3O3
reactant | NaOH | 7.5 mmol, 300 mg | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Allylamino-4-hydroxypyrimidine-5-carboxylic acid | C(C=C)NC1=NC=C(C(=N1)O)C(=O)O | C8H9N3O3
